US07208524B2
To 100 mL of tetrahydrofuran were added 8.56 g of 2-(2-benzyloxy-4-isopropylphenyl)ethylamine and 7.63 g of di-tert-butyl dicarbonate, and the mixture was stirred at room temperature for 12 hours. The solvent was removed under reduced pressure, and the obtained residue was purified by column chromatography on silica gel (eluent: ethyl acetate-hexane) to give 12.00 g of tert-butyl N-[2-(2-benzyloxy-4-isopropyl-phenyl)ethyl]carbamate.

reactant | 2-(2-benzyloxy-4-isopropylphenyl)ethylamine | 8.56 g | C(C1=CC=CC=C1)OC1=C(C=CC(=C1)C(C)C)CCN | C18H23NO
reactant | di-tert-butyl dicarbonate | 7.63 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
product | tert-butyl N-[2-(2-benzyloxy-4-isopropyl-phenyl)ethyl]carbamate | 12.00 g | C(C1=CC=CC=C1)OC1=C(C=CC(=C1)C(C)C)CCNC(OC(C)(C)C)=O | C23H31NO3
